US06476041B1
A mixture of 0.3 g of 4-benzyl-piperidine, 0.2 g of 3-[2-(3-oxo-propyl)-benzimidazol-1-yl]-propionitrile, 5 mL of 1,2-dichloroethane and 0.3 g of sodium triacetoxyborohydride was stirred at room temperature for 24 h. The reaction mixture was diluted with 50 mL chloroform and 10 mL saturated aqueous Na2CO3 and the layers separated. The aqueous layer was extracted with 2×25 mL of chloroform and the combined organic layers dried over magnesium sulfate and concentrated under reduced pressure. Low pressure chromatography eluting with a gradient of 70:30 ethyl acetate:methanol to 80:20:2 ethyl acetate:methanol:triethylamine gave 205 mg of 3-{2-[3-(4-benzyl-piperidin-1-yl)-1-methyl-propyl]-benzimidazol-1-yl }-propionitrile as a gum.

reactant | 4-benzyl-piperidine | 0.3 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | 3-[2-(3-oxo-propyl)-benzimidazol-1-yl]-propionitrile | 0.2 g | O=CCCC1=NC2=C(N1CCC#N)C=CC=C2 | C13H13N3O
reactant | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
reactant | sodium triacetoxyborohydride | 0.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Na2CO3 | 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 3-{2-[3-(4-benzyl-piperidin-1-yl)-1-methyl-propyl]-benzimidazol-1-yl }-propionitrile | 205 mg | C(C1=CC=CC=C1)C1CCN(CC1)CCC(C)C1=NC2=C(N1CCC#N)C=CC=C2 | C26H32N4
